US07795247B2
Step 5: 3-[3-cyclohexyl-2-[2-({[2-(dimethylamino)ethyl]amino}methyl)phenyl]-6-(methoxycarbonyl)-1H-indol-1-yl]propanoic acid
Lithium hydroxide monohydrate (1 eq) was added to a solution of methyl 3-cyclohexyl-2-[2-({[2-(dimethylamino)ethyl]amino}methyl)phenyl]-1-(3-methoxy-3-oxopropyl)-1H-indole-6-carboxylate in a mixture THF:H2O (4:1, 0.1 M). The mixture stirred at RT for 1 h. The reaction was quenched with 1 N HCl and the solvent evaporated in vacuo. The residue was washed with the minimum amount of Et2O and the solid residue filtered to obtain the title compound (82%); MS (ES+) m/z 506 (M+H)+.

reactant | Lithium hydroxide monohydrate | 1 eq | O.[OH-].[Li+]
reactant | methyl 3-cyclohexyl-2-[2-({[2-(dimethylamino)ethyl]amino}methyl)phenyl]-1-(3-methoxy-3-oxopropyl)-1H-indole-6-carboxylate | C1(CCCCC1)C1=C(N(C2=CC(=CC=C12)C(=O)OC)CCC(=O)OC)C1=C(C=CC=C1)CNCCN(C)C | C31H41N3O4
solvent | THF H2O | 0.1 M | C1CCOC1.O
product | 3-[3-cyclohexyl-2-[2-({[2-(dimethylamino)ethyl]amino}methyl)phenyl]-6-(methoxycarbonyl)-1H-indol-1-yl]propanoic acid | 82% | C1(CCCCC1)C1=C(N(C2=CC(=CC=C12)C(=O)OC)CCC(=O)O)C1=C(C=CC=C1)CNCCN(C)C | C30H39N3O4
